US04775692
N-butyl lithium in hexane (1.62N, 38.1 ml, 0.0617 mol) was added dropwise under argon atmosphere to a solution of dimethyl methylphosphonate (7.0 ml, 0.0643 mol) in anhydrous THF (100 ml) at -78° C. The reaction mixture was stirred for 30 min. To the mixture was added dropwise methyl 2-methyl-2-phenoxypropionate (5.00 g, 0.0257 mol), and the mixture was stirred for 20 min. at -78° C. and further stirred for 30 min. at room temperature. To the resulting mixture were added 10 ml of water and acetic acid (3.2 ml, 0.0559 mol), and then the mixture was concentrated. The residue was extracted with ethyl acetate (50 ml×4). The combined ethyl acetate layers were washed with 50 ml of water and with 50 ml of brine, dried over anhydrous sodium sulfate, and concentrated. The residue thus obtained was purified by column chromatography (silica gel, ethyl acetate/cyclohexane: 3/1) to give a purified dimethyl 3-methyl-2-oxo-3-phenoxybutylphosphonate (6.5867 g, 0.0257 mol, 100%). The product was assigned the structure by the following data.

reactant | hexane | 0.0617 mol, 1.62N, 38.1 ml | CCCCCC | C6H14
reactant | dimethyl methylphosphonate | 0.0643 mol, 7.0 ml | CP(OC)(OC)=O | C3H9O3P
reactant | methyl 2-methyl-2-phenoxypropionate | 0.0257 mol, 5.00 g | CC(C(=O)OC)(C)OC1=CC=CC=C1 | C11H14O3
reactant | acetic acid | 0.0559 mol, 3.2 ml | C(C)(=O)O | C2H4O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | dimethyl 3-methyl-2-oxo-3-phenoxybutylphosphonate | 0.0257 mol, 6.5867 g, 100% | CC(C(CP(OC)(OC)=O)=O)(C)OC1=CC=CC=C1 | C13H19O5P
